US07223791B2
A mixture of methyl 4-[3-(4-chlorophenyl)-1,2,4-oxadiazol-5-yl]-3-nitrobenzoate (0.700 g), 5% palladium on carbon (0.700 g), tetrahydrofuran (15 ml) and ethyl acetate (30 ml) was stirred under a hydrogen atmosphere at room temperature and normal pressure for 30 min. Palladium on carbon was filtered off, and the filtrate was concentrated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:1, volume ratio) to give methyl 3-amino-4-[3-(4-chlorophenyl)-1,2,4-oxadiazol-5-yl]benzoate (0.50 g, yield 79%). Recrystallization from hexane-ethyl acetate gave colorless prism crystals. melting point: 227–228° C.

reactant | methyl 4-[3-(4-chlorophenyl)-1,2,4-oxadiazol-5-yl]-3-nitrobenzoate | 0.700 g | ClC1=CC=C(C=C1)C1=NOC(=N1)C1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C16H10ClN3O5
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 0.700 g | [Pd] | Pd
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | methyl 3-amino-4-[3-(4-chlorophenyl)-1,2,4-oxadiazol-5-yl]benzoate | 0.50 g, yield 79% | NC=1C=C(C(=O)OC)C=CC1C1=NC(=NO1)C1=CC=C(C=C1)Cl | C16H12ClN3O3
